US06777421B2
To a stirring solution of 2-bromopyridine(5.13 g, 3.2 mmol) in THF (90 ml) at −78° C. was slowly added lithium diisopropylamide (LDA) (2 M in THF, 17.9 ml, 3.6 mmol) and the resulting reaction mixture allowed to stir for three hours. To the reaction mixture was then slowly added DMF (9.49 g, 130 mmol) in THF (10 ml). The reaction mixture was stirred at −78° C. for 30 min, and was then allowed to warm to room temperature. Water (100 mol) was added and then the reaction mixture was extracted with ethyl acetate three times. The combined organic layers were dried over MgSO4. The solvent was removed and the resulting residue purified over silica gel chromatography eluted with hexane, to yield 2-bromo-pyridine-3-carbaldehyde as a white solid.

reactant | 2-bromopyridine | 3.2 mmol, 5.13 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | lithium diisopropylamide | 3.6 mmol, 2 M, 17.9 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | DMF | 130 mmol, 9.49 g | CN(C)C=O | C3H7NO
reactant | Water | 100 mol | O | H2O
solvent | THF | 90 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 2-bromo-pyridine-3-carbaldehyde | BrC1=NC=CC=C1C=O | C6H4BrNO
